US09029545B2
4-Amino-2,6-dimethylthieno[2,3-b]pyridine-3-carbonitrile
A mixture of 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine (Description 8) (200 mg, 0.778 mmol), zinc cyanide (183 mg, 1.556 mmol) and tetrakis(triphenylphosphine)palladium(0) (90 mg, 0.078 mmol) in DMF (5 mL) was heated in a microwave at 140° C. for 1 h. Another batch of 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine (200 mg, 0.778 mmol) was subjected to the same conditions. The mixtures were then combined and ethyl acetate (50 mL) added. The resulting mixture was washed with saturated NaHCO3 (20 mL) followed by brine (20 mL×2) and the organic layer dried over MgSO4, filtered and the solvent removed in vacuo. The residue was purified by normal phase chromatography, eluting with a gradient of 0-40% ethyl acetate in cyclohexane, to give the title compound (237.7 mg). LCMS (A) m/z: 204 [M+1]+, Rt 0.61 min (acidic).

reactant | 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 0.778 mmol, 200 mg | BrC1=C(SC=2N=C(C=C(C21)N)C)C | C9H9BrN2S
reactant | 3-bromo-2,6-dimethylthieno[2,3-b]pyridin-4-amine | 0.778 mmol, 200 mg | BrC1=C(SC=2N=C(C=C(C21)N)C)C | C9H9BrN2S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.556 mmol, 183 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.078 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-2,6-dimethylthieno[2,3-b]pyridine-3-carbonitrile | 237.7 mg | NC1=C2C(=NC(=C1)C)SC(=C2C#N)C | C10H9N3S
